US07288677B2
4,4′-Methylenebis(2,6-diethylbenzeneamine) (3 g), Pt(S)/C (0.3 g), Amberlyst-15 (0.3 g), methyl ethyl ketone (25 g), and tetrahydrofuran (THF; 25 g) were charged into a 100 mL metal autoclave at 22° C. The closed autoclave was purged 3 times with 90 psig (7.22×105 Pa) of H2 at 22° C. The reaction mixture was then heated at 100-120° C. under 125 psig (9.63×105 Pa) of H2 for 5 hrs (until no further H2 uptake was observed). The product mixture was cooled to 22° C. and degassed. A diluted product sample was analyzed by GC (180° C. for 5 minutes at 10° C. per minute rate; final temperature, 270° C.). The GC data (normalization method) showed 100% conversion of 4,4′-methylenebis(2,6-diethylbenzeneamine), and an 86% yield of N,N′-di-sec-butyl-4,4′-methylenebis(2,6-diethylbenzeneamine).

reactant | 4,4′-Methylenebis(2,6-diethylbenzeneamine) | 3 g | C(C1=CC(=C(C(=C1)CC)N)CC)C1=CC(=C(C(=C1)CC)N)CC | C21H30N2
reactant | methyl ethyl ketone | 25 g | C(C)C(=O)C | C4H8O
catalyst | Pt(S)/C | 0.3 g | [Pt] | Pt
solvent | tetrahydrofuran | 25 g | O1CCCC1 | C4H8O
product | N,N′-di-sec-butyl-4,4′-methylenebis(2,6-diethylbenzeneamine) | 86% yield | C(C)(CC)NC1=C(C=C(C=C1CC)CC1=CC(=C(C(=C1)CC)NC(C)CC)CC)CC | C29H46N2
